US04897479
9-(1,3-Dihydroxy-2-propoxymethyl)-2-amino-6-chloropurine
A solution of 781 mg (2.18 mmoles) of 9-(1,3-diacetoxy-2-propoxymethyl)-2-amino-6-chloropurine in 22 ml of methanol was treated with 109 mmoles (5 mole percent) of freshly prepared sodium methoxide. Within ten minutes the stirred solution became cloudy and the product precipitated gradually in the course of forty-five minutes. The product was isolated by filtration, washed with 10 ml of water and dried in vacuo over P2O5 yielding 507 mg of pure product. A 200 MHz nmr spectrum in d6DMSO was fully in accord with the structure.

reactant | 9-(1,3-diacetoxy-2-propoxymethyl)-2-amino-6-chloropurine | 2.18 mmoles, 781 mg | C(C)(=O)OCC(COC(C)=O)OCN1C2=NC(=NC(=C2N=C1)Cl)N | C13H16ClN5O5
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 22 ml | CO | CH4O
product | 9-(1,3-Dihydroxy-2-propoxymethyl)-2-amino-6-chloropurine | OCC(CO)OCN1C2=NC(=NC(=C2N=C1)Cl)N | C9H12ClN5O3
